US09340544B2
Benzo[1,3]dioxol-5-yl-(2-chloro-9-ethyl-9H-purin-6-yl)-amine
Was prepared according to Example 3 from N-benzo[1,3]dioxol-5-yl-formamide and 2,6-dichloro-9-ethyl-9H-purine.

reactant | N-benzo[1,3]dioxol-5-yl-formamide | O1COC2=C1C=CC(=C2)NC=O | C8H7NO3
reactant | 2,6-dichloro-9-ethyl-9H-purine | ClC1=NC(=C2N=CN(C2=N1)CC)Cl | C7H6Cl2N4
product | Benzo[1,3]dioxol-5-yl-(2-chloro-9-ethyl-9H-purin-6-yl)-amine | O1COC2=C1C=CC(=C2)NC2=C1N=CN(C1=NC(=N2)Cl)CC | C14H12ClN5O2
